US08084448B2
A. [1-(Methoxymethyl-carbamoyl)-1-methyl-ethyl]-carbamic Acid Tert-butyl Ester
To a solution of 2-tert-butoxycarbonylamino-2-methyl-propionic acid (8.0 g, 39 mmol) and N,O-dimethylhydroxylamine hydrochloride (4.6 g, 47 mmol) in methylene chloride (80 mL) is added N-methylmorpholine (5.2 mL, 47 mmol), HOBT (6.4 g, 47 mmol) and EDCl (9.1 g, 47 mmol). The mixture is stirred at RT for 18 h then is washed sequentially with 10% citric acid (2×), sat. NaHCO3 (2×) and brine. The organic solution is dried over magnesium sulfate and the solvent removed under reduced pressure. The resulting oil is purified by flash chromatography to give the title compound.

reactant | 2-tert-butoxycarbonylamino-2-methyl-propionic acid | 39 mmol, 8.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 47 mmol, 4.6 g | Cl.CNOC
reactant | N-methylmorpholine | 47 mmol, 5.2 mL | CN1CCOCC1 | C5H11NO
reactant | HOBT | 47 mmol, 6.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 47 mmol, 9.1 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | [1-(Methoxymethyl-carbamoyl)-1-methyl-ethyl]-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC(C)(C)C(NCOC)=O)=O | C11H22N2O4
